US08304546B2
A mixture containing 6-(3-chloropropyl)-8-(4-methoxyphenyl)-5-propoxy-1,2,3,6-tetrahydro-6-aza-cyclopenta[a]naphthalen-9-one (700 mg, 1.64 mmol), morpholine (165 mg, 1.90 mmol), potassium carbonate (341 mg, 2.47 mmol), sodium iodide (295 mg, 1.97 mmol) and dimethyl formamide (3 ml) was stirred at 60° C. for 7 hours. Water and ethyl acetate were added to the reaction mixture, followed by separation. The thus-obtained organic layer was washed with an aqueous saturated sodium chloride solution twice and then concentrated under reduced pressure. The residue was purified using silica gel column chromatography (dichloromethane:methanol=70:1→50:1). The purified product was concentrated under reduced pressure to recrystallize the residue from ethyl acetate-n-hexane, giving a white powder of 8-(4-methoxyphenyl)-6-(3-morpholin-4-ylpropyl)-5-propoxy-1,2,3,6-tetrahydro-6-aza-cyclopenta[a]naphthalen-9-one (295 mg, yield: 38%).

reactant | 6-(3-chloropropyl)-8-(4-methoxyphenyl)-5-propoxy-1,2,3,6-tetrahydro-6-aza-cyclopenta[a]naphthalen-9-one | 1.64 mmol, 700 mg | ClCCCN1C2=C(C=C3C(=C2C(C(=C1)C1=CC=C(C=C1)OC)=O)CCC3)OCCC | C25H28ClNO3
reactant | morpholine | 1.90 mmol, 165 mg | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 2.47 mmol, 341 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1.97 mmol, 295 mg | [I-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | dimethyl formamide | 3 ml | CN(C=O)C | C3H7NO
product | 8-(4-methoxyphenyl)-6-(3-morpholin-4-ylpropyl)-5-propoxy-1,2,3,6-tetrahydro-6-aza-cyclopenta[a]naphthalen-9-one | 295 mg, yield: 38% | COC1=CC=C(C=C1)C1=CN(C2=C(C=C3C(=C2C1=O)CCC3)OCCC)CCCN3CCOCC3 | C29H36N2O4
